US04237067
N-(3-dimethylaminopropyl)-3-isopropoxypropionamide.
131.2 g (1.0 mole) of 3-isopropoxypropionamide are heated with 1.07.3 g (1.05 mole) of 3-dimethylaminopropylamine for 6 hours in a temperature range of 145°-170° C. until the evolution of ammonia is complete. In the subsequent distillation in a high vacuum 198 g (0.92 mole=91.5% of the theoretical yield) of colorless liquid are obtained having a Bp0.1 of 128°-132° C.

reactant | 3-isopropoxypropionamide | 1.0 mole, 131.2 g | C(C)(C)OCCC(=O)N | C6H13NO2
reactant | 3-dimethylaminopropylamine | 1.05 mole | CN(CCCN)C | C5H14N2
reactant | ammonia | N | H3N
product | N-(3-dimethylaminopropyl)-3-isopropoxypropionamide | CN(CCCNC(CCOC(C)C)=O)C | C11H24N2O2
